US05753664
7-[4-(1-Indolylcarbonyl)benzyl]-1,3-dimethylxanthine
To a solution of theophylline (1.80 g) in DMF (20 ml) were added potassium carbonate (1.66 g) and 4-[(1-indolyl)carbonyl]benzyl chloride (2.70 g) and the mixture was stirred at room temperature for 22 hours. This reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate and the solvent was distilled off to provide the title compound as colorless powder (2.25 g, 54%).

reactant | theophylline | 1.80 g | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[(1-indolyl)carbonyl]benzyl chloride | 2.70 g | N1(C=CC2=CC=CC=C12)C(=O)C1=CC=C(CCl)C=C1 | C16H12ClNO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[4-(1-Indolylcarbonyl)benzyl]-1,3-dimethylxanthine | 2.25 g, 54% | N1(C=CC2=CC=CC=C12)C(=O)C1=CC=C(CN2C=NC=3N(C(N(C(C23)=O)C)=O)C)C=C1 | C23H19N5O3
